US07799805B2
[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-ethyl-carbamic acid tert-butyl ester
Acetaldehyde (2.4 mL, 42 mmol) was added to a sol of 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzylamine (2.00 g, 7.00 mmol) in MeOH (70 mL). The mixture was heated to reflux for 4 h, and was allowed to cool to rt. NaBH4 (397 mg, 10.5 mmol) was added in portions over 1 h. The solvents were removed under reduced pressure. The residue was diluted with EtOAc (100 mL), and the resulting mixture was washed with aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield the crude [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-ethyl-amine (3.07 g). This crude material was dissolved in CH2Cl2 (70 mL). DIPEA (3.60 mL, 21.0 mmol) was added, followed by Boc2O (2.29 g, 10.5 mmol). The mixture was stirred at rt for 2 h. The mixture was diluted with CH2Cl2 (30 mL), and was washed with aq. 1M HCl, aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 5:95) yielded the title compound (850 mg, 29%). LC-MS: tR=1.23 min; ES+: 414.23.

reactant | Acetaldehyde | 42 mmol, 2.4 mL | C(C)=O | C2H4O
reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzylamine | 7.00 mmol, 2.00 g | C(C)(C)(C)[SiH2]OC(C=1C=C(CN)C=CC1Cl)(C)C | C14H24ClNOSi
reactant | NaBH4 | 10.5 mmol, 397 mg | [BH4-].[Na+]
reactant | DIPEA | 21.0 mmol, 3.60 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 10.5 mmol, 2.29 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 70 mL | CO | CH4O
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | [3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-ethyl-carbamic acid tert-butyl ester | 850 mg, 29% | C(C)(C)(C)OC(N(CC)CC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C21H36ClNO3Si
